US06627644B2
To a solution of 4-{[ethyl-(7-nitro-1,2,3,4-tetrahydro-naphthalen-2-yl)-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester (490 mg, 1.2 mmol) in ethanol (30 mL) was added 10% palladium on charcoal (50 mg). The solution was shaken on a Parr shaker for 24 h at 55 psi of hydrogen. The solution was filtered through Celite® and concentrated to afford 4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-ethyl-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester as an oil (405 mg) which was used directly.

reactant | 4-{[ethyl-(7-nitro-1,2,3,4-tetrahydro-naphthalen-2-yl)-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 1.2 mmol, 490 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C1CC2=CC(=CC=C2CC1)[N+](=O)[O-])CC | C23H35N3O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-ethyl-amino]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 405 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(CC)C1CC2=CC(=CC=C2CC1)N | C23H37N3O2
